US08076516B2
Hydrolysis of methyl 3-(2-(tert-butoxycarbonylamino)ethoxy)benzoate following the method used in Example 9 except that LiOH and THF were used instead of K2CO3 and MeOH gave 3-(2-(tert-butoxycarbonylamino)ethoxy)benzoic acid that was used directly in next reaction without further purification.

reactant | methyl 3-(2-(tert-butoxycarbonylamino)ethoxy)benzoate | C(C)(C)(C)OC(=O)NCCOC=1C=C(C(=O)OC)C=CC1 | C15H21NO5
reactant | LiOH | [Li+].[OH-]
reactant | THF | C1CCOC1 | C4H8O
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | CO | CH4O
product | 3-(2-(tert-butoxycarbonylamino)ethoxy)benzoic acid | C(C)(C)(C)OC(=O)NCCOC=1C=C(C(=O)O)C=CC1 | C14H19NO5
